US08609696B2
To a stirred suspension of methyl 1-[(4-iodophenyl)sulfonyl]piperidine-4-carboxylate (1.97 g, 4.81 mmol) and 2-(trimethylsilyl)pyridine (2.0 mL), 14.5 mmol) in anhydrous N,N-dimethyl formamide (50 mL) is added silver (I) oxide (1.12 g, 4.82 mmol), tetrakis(triphenylphosphine)palladium (0.28 g, 5 mol %) and tetrabutyl ammonium fluoride (1M in THF, 0.48 mL). The reaction is heated at 90° C. for 18 h. The reaction mixture is filtered and washed with EtOAc. The filtrate is concentrated under reduced pressure. Purification by column chromatography (silica, eluent: heptane, 5-75% EtOAc) gives 0.87 g (50%) of methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate. m/z=361 [M++H].

reactant | methyl 1-[(4-iodophenyl)sulfonyl]piperidine-4-carboxylate | 4.81 mmol, 1.97 g | IC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)OC | C13H16INO4S
reactant | 2-(trimethylsilyl)pyridine | 2.0 mL | C[Si](C1=NC=CC=C1)(C)C | C8H13NSi
reactant | tetrabutyl ammonium fluoride | 1M, 0.48 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | silver (I) oxide | 4.82 mmol, 1.12 g | [Ag-]=O
catalyst | tetrakis(triphenylphosphine)palladium | 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate | 0.87 g, 50% | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)OC | C18H20N2O4S
